US04301278
0.12 ml of bis-trimethylsilyl-acetamide (0.508 mmol) is added to a solution of 301 mg (0.462 mmol) of 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester in 3 ml of 1,2-dimethoxyethane under a nitrogen atmosphere, and the mixture is stirred for one hour at room temperature. The solution is completely concentrated by evaporation and the oily residue is dried for one hour under a high vacuum. The silylated crude product is taken up in 3 ml of dried 1,2-diethoxyethane and after cooling to 0° C. 0.075 ml (0.508 mmol) of 1,5-diazabicyclo [5.4.0]undec-5-ene is added. After 6 hours' reaction time at 0° C. under a nitrogen atmosphere, 0.3 ml of acetic acid is added and the mixture is diluted with methylene chloride. The methylene chloride solution is washed successively with dilute sulphuric acid, water and dilute bicarbonate solution. The aqueous phases are extracted with methylene chloride and the combined organic phases are dried with sodium sulphate, concentrated in vacuo and dried under a high vacuum. Crude 7β-phenoxyacetamido-3-hydroxy-ceph-3-em-4-carboxylic acid diphenylmethyl ester is obtained. An excess of a solution of diazomethane in ether is added to the solution of the crude product in chloroform at 0° C. and the mixture is left to stand for 5 minutes at 0° C. It is then concentrated completely and the residue is chromatographed on silica gel, as in Example 2. 7β-Phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid diphenylmethyl ester; Rf value=0.19 (silica gel; toluene/ethyl acetate, 3:1); melting point 120° C. (from ether), IR spectrum (in CHCl3); 3,310, 1,775, 1,710, 1,690 and 1,600 cm-1, is obtained.

reactant | bis-trimethylsilyl-acetamide | 0.508 mmol, 0.12 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester | 0.462 mmol, 301 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/O)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(COC1=CC=CC=C1)=O)=O)=O | C35H32N2O8S2
reactant | 1,5-diazabicyclo [5.4.0]undec-5-ene | 0.508 mmol, 0.075 ml | N12CCCN=CC2CCCC1 | C9H16N2
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7β-phenoxyacetamido-3-hydroxy-ceph-3-em-4-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)O | C28H24N2O6S
